data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1463,1612,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]3([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,11.395321833492188,-57.540427341451256
4594,5239,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH-:19][N+:20]#[C:21][C:22]([CH3:23])=[O:24]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:19]([C:17]([O:16][CH3:15])=[O:18])[N:20]=[C:21]2[C:22]([CH3:23])=[O:24],water,298.15,13.01820338380858,-29.67602690508243
4330,4951,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[N+:15]([CH3:16])=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[N:15]([CH3:16])[CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,12.483035327898202,-36.218598934688245
153,170,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][C:10](=[O:11])[c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:14]2([CH3:15])[NH:13][C:12]1([C:10]([CH3:9])=[O:11])[O:18][C:16]2=[O:17],water,298.15,15.841223747656612,-19.50904121310552
2215,2456,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[C:25]([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[N:22]([C:20]([NH:19][CH3:18])=[O:21])[N:23]([CH3:24])[C:25]2([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32],water,298.15,24.303200242986367,-14.210146424793429
5075,5763,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[o+:20][c:21]([C:22](=[O:23])[O:24][CH3:25])[o:26][c:27]1=[O:28]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[O:26][C:27]1=[O:28],water,298.15,18.336881696146268,-3.4047783620750955
5265,5970,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([O+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[O:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,19.375064725778007,-14.641652432539043
1959,2172,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[NH+:21][C-:22]([C:23]([CH3:24])=[O:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]([CH3:24])=[O:25])([C:26](=[O:27])[NH:28][CH3:29])[NH:21][CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,13.770105446329593,-36.71958431040567
1187,1291,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]1([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,27.98292001290441,-39.856295570212055
3260,3683,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([C:9]#[N:10])=[N+:11]([CH3:12])[C-:13]([C:14]#[N:15])[C:16]#[N:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([C:14]#[N:15])([C:16]#[N:17])[N:11]([CH3:12])[C:8]1([C:6]([CH3:5])=[O:7])[C:9]#[N:10],water,298.15,22.845474589018544,-24.49163005957796
2944,3284,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C-:8]([C:9]#[N:10])[N+:11]#[N:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:8]([C:6]([CH3:5])=[O:7])([C:9]#[N:10])[N:11]=[N:12]1,water,298.15,29.829044663189524,-7.8301762497600595
